US08530486B2
6,8-dichloroquinazolin-2,4(1H,3H)-dione
Prepared according to general method C from 2-amino-3,5-dichlorobenzoic acid (3.0 g) and urea (8.8 g). Yield: 3.20 g (95%) of a solid. Although it contained a small amount of an impurity it was used in the next step without further purification. 1H-NMR (DMSO-δ6) δ (ppm) 10.13 (br s, 1H), 7.58 (d, J=2.5 Hz, 1H), 7.50 (d, J=2.6 Hz, 1H).

reactant | 2-amino-3,5-dichlorobenzoic acid | 3.0 g | NC1=C(C(=O)O)C=C(C=C1Cl)Cl | C7H5Cl2NO2
reactant | urea | 8.8 g | NC(=O)N | CH4N2O
product | 6,8-dichloroquinazolin-2,4(1H,3H)-dione | ClC=1C=C2C(NC(NC2=C(C1)Cl)=O)=O | C8H4Cl2N2O2
